US07705042B2
a) 1-(5-Chloro-2-nitro-phenyl)-4-fluoro-piperidine
A solution of 4-chloro-2-fluoro-1-nitro benzene (0.30 g, 1.7 mmol) in toluene (5 mL) was treated with solid Na2CO3 (0.40 g, 3.7 mmol) and 4-fluoropiperidine hydrochloride (0.25 g, 1.8 mmol). The reaction was heated to 40° C. for 6 h. The reaction was diluted with EtOAc and washed with water. The organic layer was dried over MgSO4 and concentrated in vacuo to afford the title compound (0.44 g, 99%) as a bright yellow oil. 1H-NMR (CDCl3; 400 MHz): δ 7.79 (d, 1H, J=8.8 Hz), 7.10 (d, 1H, 2.0 Hz), 6.97 (dd, 1H, J=8.8 Hz, J=2.0 Hz), 4.97-4.79 (m, 1H), 3.26-3.17 (m, 2H), 3.06-2.99 (m, 2H), 2.14-1.97 (m, 4H). LC-MS (ESI, m/z): Calcd. for C11H12ClFN2O2, 225.2 (M-Cl+2H), found 225.2.

reactant | 4-chloro-2-fluoro-1-nitro benzene | 1.7 mmol, 0.30 g | ClC1=CC(=C(C=C1)[N+](=O)[O-])F | C6H3ClFNO2
reactant | Na2CO3 | 3.7 mmol, 0.40 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-fluoropiperidine hydrochloride | 1.8 mmol, 0.25 g | Cl.FC1CCNCC1
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(5-Chloro-2-nitro-phenyl)-4-fluoro-piperidine | 0.44 g, 99% | ClC=1C=CC(=C(C1)N1CCC(CC1)F)[N+](=O)[O-] | C11H12ClFN2O2
